US05753644
In 30 ml of a 1:1 mixture of tetrahydrofuran and methanol were dissolved 0.30 g of 5-ethoxycarbonyl-methylidene-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine and 0.55 g of nickel chloride hexahydrate. Thereto was slowly added 0.26 g of sodium borohydride with ice-cooling and stirring. The mixture was stirred for 10 minutes with ice-cooling. The resulting insolubles were removed by filtration with Celite. The filtrate was concentrated. The residue was purified by silica gel column chromatography (elutant: ethyl acetate/n-hexane =1/1) to obtain 0.13 g of 5-ethoxycarbonylmethyl-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 5-ethoxycarbonyl-methylidene-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.30 g | C(C)OC(=O)C1CCC(N(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)=C | C30H29ClN2O4
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
reactant | methanol | CO | CH4O
catalyst | nickel chloride hexahydrate | 0.55 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 5-ethoxycarbonylmethyl-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.13 g | C(C)OC(=O)CC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O | C30H31ClN2O4
